US05780483
a) Preparation of 4-nitro 2-(phenylsulfonylamino) aniline
A solution of 4-nitro 1,2-phenylene diamine(1.53 g, 10.0 mmol) in DMF was treated with phenyl sulfonyl chloride(1.76 g, 10.0 mmol) and triethyl amine(1.01 g) in DMF for 12 h at 23° C. The reaction mixture was partitioned between saturated NH4Cl and methylene chloride. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The resulting solid was recrystallized (EtOH) to afford desired (0.275 g, 9%). 1H NMR(DMSO) 9.5(s, 1H, br), 7.83 (dd, 1H, J=10 Hz, 2 Hz), 7.74(d, 2H, J=8 Hz), 7.76(t, 1H, J=8 Hz), 7.56(t, 2H, J=8 Hz), 7.55(d,1H, J=2 Hz), 6.79 (d, 1H, J=8 Hz), 6.5(s, 2H, br).

reactant | 4-nitro 1,2-phenylene diamine | 10.0 mmol, 1.53 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | phenyl sulfonyl chloride | 10.0 mmol, 1.76 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethyl amine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-nitro 2-(phenylsulfonylamino) aniline | [N+](=O)([O-])C1=CC(=C(N)C=C1)NS(=O)(=O)C1=CC=CC=C1 | C12H11N3O4S
